US07989634B2
Step A: (2R)-N-BOC-proline ethylthioester
To a solution of DCC (2.55 g, 12.4 mmol), DMAP (100 mg), and EtSH (0.71 g, 11.1 mmol) in DCM was added dropwise a solution of (2R)-N-BOC-proline (3.00 g, 9.52 mmol) in DCM (30 mL). The reaction mixture was stirred at rt for 30 min, and filtered though Celite. The filtrate was dried over MgSO4 and concentrated in vacuo, and the residue was purified by column chomatography (EtOAc/Hex=1/4) to give the title compound (2.34 g, 95.2%).

reactant | DCC | 12.4 mmol, 2.55 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | EtSH | 11.1 mmol, 0.71 g | CCS | C2H6S
reactant | (2R)-N-BOC-proline | 9.52 mmol, 3.00 g | C(=O)(OC(C)(C)C)N1[C@@H](C(=O)O)CCC1 | C10H17NO4
catalyst | DMAP | 100 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | (2R)-N-BOC-proline ethylthioester | 2.34 g, 95.2% | C(C)SOC([C@@H]1N(CCC1)C(=O)OC(C)(C)C)=O | C12H21NO4S
